US04535167
The oxazolidinone from Cbz-glycine (221 mg, 1.0 mmole) was dissolved in 10 ml of CHCl3 and triethylsilane (193 ∥l=174 mg, 1.5 mmoles) and trifluoroacetic acid (770 μl, 10 mmoles) were added. The solution was stirred at room temperature for 2 hrs. and concentrated in vacuo. CHCl3 was added and the solution was reconcentrated to a colorless oil. Silica gel chromatography gave 107 mg (48%) of Cbz-sarcosine, identified by NMR (N-Me, 2.98 ppm) and amino acid analysis.

reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | Cbz-glycine | 1.0 mmole, 221 mg | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | triethylsilane | 1.5 mmoles, 174 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 10 mmoles, 770 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Cbz-sarcosine | 107 mg, 48% | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)O | C11H13NO4
